US04704459
Into 4 ml of N,N-dimethylformamide was dropped 250 mg of phosphorus oxychloride with ice-cooling, and 200 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate was added thereto after stirring at the same temperature for 10 minutes. The resulting mixture was subjected to reaction at 50° to 60° C. for 3.5 hours. The reaction mixture was poured into 50 ml of iced water, and 20 ml of chloroform was added thereto, after which the organic layer was separated, washed with 20 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added 5 ml of diethyl ether, after which crystals were collected by filtration to obtain 150 mg (yield 72.2%) of ethyl 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 217°-220° C. This was recrystallized from an acetone-methanol mixture (1:1 by volume) to obtain crystals having a melting point of 219°-221° C.

reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 250 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OC)F | C17H15F3N2O4
reactant | water | 50 ml | O | H2O
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | ethyl 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 150 mg, yield 72.2% | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C17H10ClF3N2O3
